US06211199B1
(1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt
Combine (1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (0.405 g, 1.00 mmol), aqueous hydriodic acid (0.29 mL, 57%), and methanol (15 mL). Heat to reflux. After 2 hour, cool to ambient temperature and add diethyl ether (100 mL) and stir to give a solid. After 1 hour, collect the solid by filtration, dissolve in methanol and add diethyl ether (100 mL) to give a solid. Collect the solid by filtration and dry in vacuo to give the title compound.

reactant | (1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 1.00 mmol, 0.405 g | C(C)OC(=O)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C21H30N4O4
reactant | hydriodic acid | 0.29 mL | I | HI
reactant | methanol | 15 mL | CO | CH4O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | I.C(C)OC(=O)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | InChI=1S/C16H22N4O2.HI/c1-2-22-15(21)11-20-14-6-4-3-5-13(14)19-16(20)18-12-7-9-17-10-8-12;/h3-6,12,17H,2,7-11H2,1H3,(H,18,19);1H
